US04204068
2-Aminodecanoic acid (J. Am. Chem. Soc., 1946, 68, 450) (16.0 g) was added in portions to a cooled (-10° C.) mixture of absolute ethanol (70 ml) and thionyl chloride (6 ml) with stirring. The resulting solution was set aside for 2 hours, at room temperature, refluxed for 1 hour, cooled, poured into ice-water, and the pH of the solution was adjusted to 9 with aqueous sodium hydroxide. The mixture was extracted with ether, the extract was dried, concentrated, then distilled, giving ethyl 2-aminodecanoate (75%) as a colourless oil, b.p. 82°-84° C./0.2 mm.

reactant | 2-Aminodecanoic acid | 16.0 g | NC(C(=O)O)CCCCCCCC | C10H21NO2
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | ethyl 2-aminodecanoate | 75% | NC(C(=O)OCC)CCCCCCCC | C12H25NO2
